* C:\users\tor\My Documents\projects\ucd\eeen40310_Power-Electronics\LAB1\Complete.asc
C1 VC 0 22n
R1 V2 VC 560
XU1 N001 VC vs+ vs- V2 LT1357
R3 V2 N001 8.2k
R2 N001 0 2.2k
V1 vs+ 0 10
V2 vs- 0 -10
XU2 0 V2 vs+ vs- N004 LT1357
R12 N005 N004 6.8k
R§1k N005 0 1k
Q3 N002 N005 0 0 2N3904
R11 Vs+ N002 1k
Rgate gate N003 10
C6 Vs+ 0 1µ
Q2 0 N002 N003 0 BC327-25
Q1 Vs+ N002 N003 0 2N3904
Vin1 in 0 {Vi}
C2 out N008 10µF
D2 0 N006 mur1520d
RL1 out 0 {RL}
R5 N008 0 0.060
M1 N006 gate in in IRF9Z34N
L1 N007 out 83.2µ
R6 N007 N006 20m
.model D D
.lib C:\users\tor\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\tor\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\tor\My Documents\LTspiceXVII\lib\cmp\standard.mos
.MODEL mur1520d D(IS=3.22361e-06 RS=0.0101677 N=2 EG=1.21579 XTI=3.00528 BV=200 IBV=0.00001 CJO=5.43127e-10 VJ=0.4 M=0.373455 FC=0.5 TT=3.24606e-08 KF=0 AF=1)
.model IRF9Z34N VDMOS(pchan Rg=3 Rd=42m Rs=31m Vto=-4 Kp=1 Cgdmax=0.5n Cgdmin=.1n Cgs=.48n Cjo=.76n Is=76p Rb=52m mfg=International_Rectifier Vds=-55 Ron=100m Qg=35n)
.tran 0 3m 0 10n
.param f=100k D=0.5
* Sim Directives
* PWM Source
.param RL=4.7 Vi=10
* Load/Source Characteristic
.lib LTC.lib
.backanno
.end
